US06927221B2
tert-Butyl N-(4-iodo-3-pyridyl)carbamate
N-Butyllithium (1.6M hexane solution 400 mL, 0.64 mol) was added to a solution of tert-butyl N-(3-pyridyl)carbamate (51.8 g, 0.27 mol) and tetramethylethylenediamine (96.6 mL, 0.64 ml) in diethyl ether (1.5 L) at −78° C., followed by stirring at −20° C. for 2.5 hr. After cooling to −78° C. again, a solution of iodine (94.8 g, 0.37 mol) in diethyl ether (200 mL) was added and stirred for one day while raising a temperature to room temperature. Water was added, extracted with diethyl ether, and the organic layer was washed with hypo-water and brine, dried over anhydrous magnesium sulfate and evaporated. The resulting crystals were washed with hexane, to give the title compound (53.0 g) as white crystals.

reactant | N-Butyllithium | 0.64 mol, 1.6M, 400 mL | [Li+].CCC[CH2-]
reactant | tert-butyl N-(3-pyridyl)carbamate | 0.27 mol, 51.8 g | N1=CC(=CC=C1)NC(OC(C)(C)C)=O | C10H14N2O2
reactant | tetramethylethylenediamine | 96.6 mL | CN(CCN(C)C)C | C6H16N2
reactant | iodine | 0.37 mol, 94.8 g | II | I2
solvent | diethyl ether | 1.5 L | C(C)OCC | C4H10O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | Water | O | H2O
product | tert-Butyl N-(4-iodo-3-pyridyl)carbamate | 53.0 g | IC1=C(C=NC=C1)NC(OC(C)(C)C)=O | C10H13IN2O2
